US07378409B2
A solution of (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (2.0 g, 5.34 mmol) in tetrahydrofuran (40 mL) was treated with water (8 mL) and then with NaBH4 (1.01 g, 26.7 mmol). The mixture was stirred at rt for 5 h, then was treated with aqueous NaOH (1.0 M, 100 mL) and stirred for 60 min. The mixture was extracted four times with ethyl acetate. The combined extracts were washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated under vacuum. The residue was recrystallized from ethyl acetate-hexane to provide tert-butyl (1R,3R,4S)-4-benzyloxycarbonylamino-3-(hydroxymethyl)cyclohexylcarbamate as a white solid (1.438 g). MS found: (M+H)+=379.3.

reactant | (1R,2S,5R)-tert-butyl 2-(benzyloxycarbonylamino)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 5.34 mmol, 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O | C20H26N2O5
reactant | water | 8 mL | O | H2O
reactant | NaBH4 | 26.7 mmol, 1.01 g | [BH4-].[Na+]
reactant | NaOH | 1.0 M, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | tert-butyl (1R,3R,4S)-4-benzyloxycarbonylamino-3-(hydroxymethyl)cyclohexylcarbamate | 1.438 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO | C20H30N2O5
